US09255100B2
4-{6-(4-chlorophenoxy)-8-[(3,3,3-trifluoropropyl)amino]imidazo[1,2-b]pyridazin-3-yl}-2-methylbenzoic acid
A mixture comprising 300 mg (566 μmol) 4-{6-(4-chlorophenoxy)-8-[(3,3,3-trifluoropropyl)amino]imidazo[1,2-b]pyridazin-3-yl}-N-cyclopropyl-2-methylbenzamide and 13.4 mL hydrobromic acid was heated at 120° C. for 2.5 days. Water was added, the precipitate filtered off to give the crude title compound that was used without further purification.

reactant | 4-{6-(4-chlorophenoxy)-8-[(3,3,3-trifluoropropyl)amino]imidazo[1,2-b]pyridazin-3-yl}-N-cyclopropyl-2-methylbenzamide | 566 μmol, 300 mg | ClC1=CC=C(OC=2C=C(C=3N(N2)C(=CN3)C3=CC(=C(C(=O)NC2CC2)C=C3)C)NCCC(F)(F)F)C=C1 | C26H23ClF3N5O2
reactant | hydrobromic acid | 13.4 mL | Br | BrH
reactant | Water | O | H2O
product | 4-{6-(4-chlorophenoxy)-8-[(3,3,3-trifluoropropyl)amino]imidazo[1,2-b]pyridazin-3-yl}-2-methylbenzoic acid | ClC1=CC=C(OC=2C=C(C=3N(N2)C(=CN3)C3=CC(=C(C(=O)O)C=C3)C)NCCC(F)(F)F)C=C1 | C23H18ClF3N4O3
